US09062004B2
Synthesis of 4,5-Dichloro-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one
t-Butyl N′-(3,3,5,5-Tetramethylcyclohexyl)hydrazine carboxylate (5.0 g, 0.0194 moles) was suspended in 6M hydrochloric acid (375 mL) and mucochloric acid (3.28 g, 0.0194 moles) was added. Heated to reflux with stirring overnight and allowed to cool. Diluted with water and filtered off the product as a grey solid. Dried in a desiccator over phosphorus pentoxide. (4.89 g, 83%). 1H NMR (300 MHz CDCl3) 7.8 (s, 1H), 5.25 (m, 1H), 1.55 (m, 4H), 1.3 (m, 1H), 1.15 (m, 1H), 1.15 (s, 6H), 0.95 (s, 6H).

reactant | t-Butyl N′-(3,3,5,5-Tetramethylcyclohexyl)hydrazine carboxylate | 0.0194 moles, 5.0 g | CC1(CC(CC(C1)(C)C)NNC(=O)OC(C)(C)C)C | C15H30N2O2
reactant | mucochloric acid | 0.0194 moles, 3.28 g | C(/C(/Cl)=C(/Cl)\C=O)(=O)O | C4H2Cl2O3
solvent | hydrochloric acid | 6M, 375 mL | Cl | ClH
solvent | water | O | H2O
product | 4,5-Dichloro-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one | ClC=1C(N(N=CC1Cl)C1CC(CC(C1)(C)C)(C)C)=O | C14H20Cl2N2O
